### PR TITLE
[Merged by Bors] - refactor(MeasureTheory/PMF): Removing `MasurableSet` hypotheses 

### PR DESCRIPTION
**Pull request by Citronhat**
This commit introduces the following generalizations:
- `toMeasure_mono` no longer requires the target set `t` to be measurable.
- `toMeasure_apply_inter_support` no longer requires `p.support` to be measurable.
- `restrict_toMeasure_support` no longer requires a `[MeasurableSingletonClass α]` instance.

In the `[MeasurableSingletonClass α]` context, a new lemma `toMeasure_apply_eq_toOuterMeasure` is added. It shows that `p.toMeasure s = p.toOuterMeasure s` for *any* set `s`.

This lemma is then used to shorten the proofs for:
- `toMeasure_apply_finset`
- `toMeasure_apply_fintype`

A new lemma `toMeasure_apply_eq_tsum` replaces `toMeasure_apply_of_finite`, since the finite assumption is  no longer required.

Additionally, as suggested during review, the argument `s : Set α` is now implicit in several lemmas, as it is inferable from the `hs : MeasurableSet s` hypothesis.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/ProbabilityMassFunction/Basic.lean [hunk 1]
```diff
@@ -231,22 +231,21 @@ theorem toMeasure_apply_eq_zero_iff (hs : MeasurableSet s) :
...
+    (h : s ∩ p.support ⊆ t) : p.toMeasure s ≤ p.toMeasure t := by
+  rw [p.toMeasure_apply_eq_toOuterMeasure_apply s hs]
+  exact (p.toOuterMeasure_mono h).trans (p.toOuterMeasure_apply_le_toMeasure_apply t)
+
 @[simp]
-theorem toMeasure_apply_inter_support (hs : MeasurableSet s) (hp : MeasurableSet p.support) :
-    p.toMeasure (s ∩ p.support) = p.toMeasure s := by
-  simp [p.toMeasure_apply_eq_toOuterMeasure_apply s hs,
-    p.toMeasure_apply_eq_toOuterMeasure_apply _ (hs.inter hp)]
+theorem toMeasure_apply_inter_support (hs : MeasurableSet s) :
```
Comment (EtienneC30) [inline Mathlib/Probability/ProbabilityMassFunction/Basic.lean:240]: Can you make `s` implicit here please?

File: Mathlib/Probability/ProbabilityMassFunction/Basic.lean [hunk 2]
```diff
@@ -231,22 +231,21 @@ theorem toMeasure_apply_eq_zero_iff (hs : MeasurableSet s) :
...
+    p.toMeasure (s ∩ p.support) = p.toMeasure s :=
+  (measure_mono s.inter_subset_left).antisymm (p.toMeasure_mono hs (refl _))
 
 @[simp]
-theorem restrict_toMeasure_support [MeasurableSingletonClass α] (p : PMF α) :
-    Measure.restrict (toMeasure p) (support p) = toMeasure p := by
+theorem restrict_toMeasure_support (p : PMF α) :
```
Comment (EtienneC30) [inline Mathlib/Probability/ProbabilityMassFunction/Basic.lean]: There is already a variable `p` available in the file, no need to add it here. (You can see which variables are available at a point in the file by typing `#where`.)

File: Mathlib/Probability/ProbabilityMassFunction/Basic.lean [hunk 3]
```diff
@@ -267,18 +266,21 @@ theorem toMeasure_injective : (toMeasure : PMF α → Measure α).Injective := b
...
+  rw [← restrict_toMeasure_support, Measure.restrict_apply' p.support_countable.measurableSet,
+    p.toMeasure_apply_eq_toOuterMeasure_apply _ hs, toOuterMeasure_apply_inter_support]
+
 @[simp]
 theorem toMeasure_apply_finset (s : Finset α) : p.toMeasure s = ∑ x ∈ s, p x :=
-  (p.toMeasure_apply_eq_toOuterMeasure_apply s s.measurableSet).trans
-    (p.toOuterMeasure_apply_finset s)
+  (p.toMeasure_apply_eq_toOuterMeasure s).trans (p.toOuterMeasure_apply_finset s)
 
-theorem toMeasure_apply_of_finite (hs : s.Finite) : p.toMeasure s = ∑' x, s.indicator p x :=
```
Comment (EtienneC30) [inline Mathlib/Probability/ProbabilityMassFunction/Basic.lean:275]: Can you add a deprecation for this result you renamed please? You can do so by starting to type `deprecated` in VSCode, then auto complete `deprecated alias` and fill in the names like this:
```lean
@[deprecated (since := "2025-06-23")] alias toMeasure_apply_of_finite := toMeasure_apply_eq_tsum
```
just below `toMeasure_apply_eq_tsum`.

**Review by EtienneC30 — COMMENTED** [review]
Thank you for your contribution! Here are small remarks. Don't hesitate if you have questions. Once you addressed all the comments, you can remove the awaiting-author label.

**Comment by Citronhat** [comment]
Hi @EtienneC30 

Thank you very much for reviewing my first contribution! I was a bit worried no one would find it worthwhile to review it, so I really appreciate all of your inputs. I've pushed the changes that address your remarks. I believe everything is resolved, and the PR should be ready for another look. Please let me know if there's anything else.

File: Mathlib/Probability/ProbabilityMassFunction/Basic.lean [hunk 4]
```diff
@@ -231,22 +231,20 @@ theorem toMeasure_apply_eq_zero_iff (hs : MeasurableSet s) :
...
-  simp [p.toMeasure_apply_eq_toOuterMeasure_apply s hs,
-    p.toMeasure_apply_eq_toOuterMeasure_apply _ (hs.inter hp)]
+theorem toMeasure_apply_inter_support {s : Set α} (hs : MeasurableSet s) :
+    p.toMeasure (s ∩ p.support) = p.toMeasure s :=
+  (measure_mono s.inter_subset_left).antisymm (p.toMeasure_mono hs (refl _))
 
 @[simp]
-theorem restrict_toMeasure_support [MeasurableSingletonClass α] (p : PMF α) :
-    Measure.restrict (toMeasure p) (support p) = toMeasure p := by
+theorem restrict_toMeasure_support : Measure.restrict p.toMeasure p.support = p.toMeasure := by
```
Comment (EtienneC30) [inline Mathlib/Probability/ProbabilityMassFunction/Basic.lean]: Thanks! One last small detail: you can use dot notation here to make things nicer to read.
```suggestion
theorem restrict_toMeasure_support : p.toMeasure.restrict p.support = p.toMeasure := by
```
About the PR workflow: once you applied a suggestion, you can click the corresponding "Resolve conversation" button to indicate it. If you disagree with a suggestion, leave the conversation unresolved and explain why, so that we can discuss it. Once you addressed to all the suggestions, you can remove the awaiting-author label to indicate it.
Also, you don't have to worry about whether what you do is "worthwile". As long as it builds, reviewers will take a look. If they consider it not useful they will tell you, but this is quite rare, almost every contribution is worth, especially those like yours which weaken hypotheses! If one of your PR is stalling for some time, you can always create a topic about it in the "PR reviews" channel on Zulip. The awaited time for a review also depends on its size: if it's big it takes more time.

Comment (Citronhat) [reply Mathlib/Probability/ProbabilityMassFunction/Basic.lean]: Yeah, I figured a good first contribution would be one no one could reasonably object to. 

As you suggested, I made the set `s` implicit in `toMeasure_apply_inter_support`. But should the sets in the `Measure` section ever be made explicit? There always seems to be a `MeasurableSet s` to infer it from ... but maybe that is for another PR.

Comment (Citronhat) [reply Mathlib/Probability/ProbabilityMassFunction/Basic.lean]: You say I can remove "awaiting-author"-label. Is this to be taken literally? If so - how do I do it?

Comment (EtienneC30) [reply Mathlib/Probability/ProbabilityMassFunction/Basic.lean]: You can click on the label section on the right and pick the ones you want.

Comment (EtienneC30) [reply Mathlib/Probability/ProbabilityMassFunction/Basic.lean]: > should the sets in the `Measure` section ever be made explicit?

Indeed when there is a measurability hypothesis the set should be implicit, I didn't want to ask you to do it because it was not the goal of the PR. If you want to correct this, feel free! Let me know what you decide.

**Comment by Citronhat** [comment]
-awaiting-author

File: Mathlib/Probability/ProbabilityMassFunction/Basic.lean (hunk 4 above)
Comment (Citronhat) [reply Mathlib/Probability/ProbabilityMassFunction/Basic.lean]: It's all good fun, so I decided to also fix the measurability hypothesis in the affected files. Regarding the label picking, it seems only you mighty collaborators can change labels by clicking. The rest of us can instead write "-awaiting-author" in a comment.

File: Mathlib/Probability/ProbabilityMassFunction/Basic.lean [hunk 5]
```diff
@@ -206,9 +206,9 @@ section Measure
 /-- Since every set is Carathéodory-measurable under `PMF.toOuterMeasure`,
   we can further extend this `OuterMeasure` to a `Measure` on `α`. -/
 def toMeasure [MeasurableSpace α] (p : PMF α) : Measure α :=
-  p.toOuterMeasure.toMeasure ((toOuterMeasure_caratheodory p).symm ▸ le_top)
+  p.toOuterMeasure.toMeasure (p.toOuterMeasure_caratheodory.symm ▸ le_top)
 
-variable [MeasurableSpace α] (p : PMF α) (s : Set α)
+variable [MeasurableSpace α] (p : PMF α) {s : Set α}
 
 theorem toOuterMeasure_apply_le_toMeasure_apply : p.toOuterMeasure s ≤ p.toMeasure s :=
```
Comment (EtienneC30) [inline Mathlib/Probability/ProbabilityMassFunction/Basic.lean]: Beware that `s` should only be implicit when it is mentioned in another hypothesis! So in this theorem for instance it should be made explicit. Can you go through the file and add an explicit parameter where it is needed please?

**Comment by EtienneC30** [comment]
Why do you force push your commits? I'm not very good with git and maybe it's not related, but right now I cannot see the difference brought by each of your commits separately, so I can't easily tell what changes you made since the last review.

File: Mathlib/Probability/ProbabilityMassFunction/Basic.lean (hunk 4 above)
Comment (EtienneC30) [reply Mathlib/Probability/ProbabilityMassFunction/Basic.lean]: Oh sorry this just changed with the new workflow, I wasn't aware of it.

File: Mathlib/Probability/ProbabilityMassFunction/Basic.lean (hunk 5 above)
Comment (Citronhat) [reply Mathlib/Probability/ProbabilityMassFunction/Basic.lean]: Ah, my bad.  The following theorems now have correctly have an explicit `s` variable:

- `toMeasure_apply_fintype`
- `toMeasure_apply_eq_tsum`
- `toMeasure_apply_eq_toOuterMeasure`
- `toOuterMeasure_apply_le_toMeasure_apply`

Good catch and thank you for your patience with me.

**Comment by Citronhat** [comment]
> Why do you force push your commits? I'm not very good with git and maybe it's not related, but right now I cannot see the difference brought by each of your commits separately, so I can't easily tell what changes you made since the last review.

I am pretty clueless with git, and I  think I used an ill-fitting guide. Did my last commit appear separate from the others or does the issue persist?

**Comment by Citronhat** [comment]
-awaiting-author

**Comment by EtienneC30** [comment]
It looks like the problem is solved. Thank you for your contribution! Now we just have to wait for a maintainer to merge the PR.
maintainer merge

**Comment by sgouezel** [comment]
bors r+
Thanks for your contribution!
